US07384934B2
(S)-10-[4-(2-Fluoro-ethyl)-3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Add a solution of borane-tetrahydrofuran complex (1.0 M in tetrahydrofuran; 3.8 mL, 3.8 mmol) to a 0° C. solution of (S)-2-fluoro-1-[2-(2-methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-piperazin-1-yl]-ethanone (0.18 g, 0.38 mmol) in anhydrous tetrahydrofuran (3 mL) and stir at 0° C. for 3 hours. Quench the reaction, in an ice/water bath, slowly with methanol. Concentrate the reaction under reduced pressure and reconstitute in anhydrous dichloroethane (6 mL). Add ethylenediamine (0.23 mL, 3.4 mmol) and reflux for 45 minutes. Cool the reaction to ambient temperature and dilute with deionized water and dichloromethane (20 mL each). Separate the organic layer and extract the aqueous layer with dichloromethane (2×). Wash the combined organics with deionized water and then a saturated solution of sodium chloride, and then dry (sodium sulfate), filter, and concentrate under reduced pressure to an orange oil (0.19 g). Purify the oil by flash chromatography, eluting with a gradient of a solution of ethyl acetate:hexane (1:1, 0-50% in hexane over 45 minutes, then 100% for 13 minutes) to give the title compound: 0.050 g (29%). Mass spectrum (APCI+, m/e): 458 (M+1).

reactant | borane tetrahydrofuran | 3.8 mmol, 1.0 M, 3.8 mL | B.O1CCCC1
reactant | (S)-2-fluoro-1-[2-(2-methoxy-ethyl)-4-(2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-piperazin-1-yl]-ethanone | 0.38 mmol, 0.18 g | FCC(=O)N1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2)CCOC | C20H21F4N5O2S
reactant | methanol | CO | CH4O
reactant | ethylenediamine | 3.4 mmol, 0.23 mL | C(CN)N | C2H8N2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-10-[4-(2-Fluoro-ethyl)-3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | FCCN1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2)CCOC | C20H23F4N5OS
